US06407124B1
To a solution of 2-amino-5-bromothiazole (22.3 g, 85.9 mmol) in methylene chloride (100 mL) and pyridine (60 mL) was added acetic anhydride (11 mL) slowly with stirring. The mixture was allowed to stir for 2.5 hours, warmed to room temperature, and stirred for an additional 4 hours. Most of the solvent was removed in vacuo and the residue was washed with ethyl acetate and aqueous HCl. The organic solution was then washed with water, dried over MgSO4 and concentrated to give a crude solid. This solid was triturated with Et2O, filtered, washed with Et2O, and dried to give 2-acetamido-5-bromothiazole as a solid (15.1 g, 80%, C5H5BrN2OS, MS m/e 222 (M+H)+).

reactant | 2-amino-5-bromothiazole | 85.9 mmol, 22.3 g | NC=1SC(=CN1)Br | C3H3BrN2S
reactant | acetic anhydride | 11 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | 2-acetamido-5-bromothiazole | C(C)(=O)NC=1SC(=CN1)Br | C5H5BrN2OS
